US09120749B2
tert-Butyl 4-[6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino]benzylcarbamate
Following general procedure C, (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone (290 mg, 0.934 mmol) was reacted with tert-butyl 4-aminobenzylcarbamate (312 mg, 1.40 mmol) to afford the desired product (362 mg, 78%) as a yellow solid: ESI MS m/z 496 [C25H26BrN3O3+H]+.

reactant | (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone | 0.934 mmol, 290 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)Cl | C13H9BrClNO
reactant | tert-butyl 4-aminobenzylcarbamate | 1.40 mmol, 312 mg | NC1=CC=C(CNC(OC(C)(C)C)=O)C=C1 | C12H18N2O2
product | tert-Butyl 4-[6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino]benzylcarbamate | 362 mg, 78% | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC1=CC=C(CNC(OC(C)(C)C)=O)C=C1 | C25H26BrN3O3
